US20010027196A1
2-Amino-4-benzo[1,3]dioxol-5-yl-6-(2-morpholin-4-yl-ethylamino)-pyrimidine-5-carbonitrile
From 2-amino-4-benzo[1,3]dioxol-5-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile and 4-(2-aminoethyl)morpholine in DME. ES-MS m/e (%): 369 (M+H+, 100), 282 ([M+H—C4H9NO]+, 75).

reactant | 2-amino-4-benzo[1,3]dioxol-5-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC2=C(OCO2)C=C1)C#N)S(=O)(=O)C | C13H10N4O4S
reactant | 4-(2-aminoethyl)morpholine | NCCN1CCOCC1 | C6H14N2O
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-benzo[1,3]dioxol-5-yl-6-(2-morpholin-4-yl-ethylamino)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC2=C(OCO2)C=C1)C#N)NCCN1CCOCC1 | C18H20N6O3
